US07973057B2
With reference to Scheme 4 below, azathalidomide was prepared from aminoglutarimide and commercial pyridine-3,4-dicarboxylic anhydride. Cbz-aminoglutarimide was deprotected by hydrogenolysis with catalyst palladium hydroxide on carbon (10%) to form aminoglutarimide. Pyridine-3,4-dicarboxyic anhydride was refluxed with aminoglutarimide in the presence of triethylamine to yield azathalidomide 11 in the total yield of 17% from Cbz-aminoglutarimide.

reactant | Pyridine-3,4-dicarboxyic anhydride | N1=CC2=C(C=C1)C(=O)OC2=O | C7H3NO3
reactant | aminoglutarimide | NC1C(=O)NC(CC1)=O | C5H8N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | Cbz-aminoglutarimide | yield of 17% | C(=O)(OCC1=CC=CC=C1)C1(C(=O)NC(CC1)=O)N | C13H14N2O4
